US07985762B2
To a solution of 3-(benzyloxycarbonylamino)-4-cyclobutyl-2-hydroxybutanoic acid (600 mg, 1.95 mmol) in DCM (20 mL) was added HOSu (337 mg, 2.93 mmol), EDC (562 mg, 2.93 mmol). After stirring for 1 hour, cyclopropylamine (223 mg, 3.9 mmol) was added to the above mixture. The product was extracted with EtOAc. The combined organic layer was then washed with HCl (1N), water, NaHCO3, and brine and then concentrated in vacuo to afford benzyl 1-cyclobutyl-4-(cyclopropylamino)-3-hydroxy-4-oxobutan-2-ylcarbamate (530 mg). (M+1) 347.

reactant | 3-(benzyloxycarbonylamino)-4-cyclobutyl-2-hydroxybutanoic acid | 1.95 mmol, 600 mg | C(C1=CC=CC=C1)OC(=O)NC(C(C(=O)O)O)CC1CCC1 | C16H21NO5
reactant | HOSu | 2.93 mmol, 337 mg | ON1C(=O)CCC1=O | C4H5NO3
reactant | EDC | 2.93 mmol, 562 mg
reactant | cyclopropylamine | 3.9 mmol, 223 mg | C1(CC1)N | C3H7N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | benzyl 1-cyclobutyl-4-(cyclopropylamino)-3-hydroxy-4-oxobutan-2-ylcarbamate | 530 mg | C1(CCC1)CC(C(C(=O)NC1CC1)O)NC(OCC1=CC=CC=C1)=O | C19H26N2O4
